US05668137
A 1.25M solution of n-butyl lithium in hexane (32 ml) was cooled to 0° C. under an argon atmosphere and diisopropylamine (4.05 g; 5.24 ml) was added slowly. The resulting mixture was cooled to -70° C. and stirred while methyl isobutyrate (4.08 g; 4.58 ml) was added dropwise while maintaining the temperature at <-60° C. After a further 30 minutes at -70° C., a solution of 4-bromobenzyl bromide (10.0 g) in anhydrous tetrahydrofuran (20 ml) was added and the temperature was maintained at -70° C. for a further 1.5 hours. The reaction mixture was allowed to attain ambient temperature then heated to reflux for 18 hours. On cooling, the mixture was acidified with 8% aqueous citric acid and extracted with ethyl acetate (3×75 ml). Insoluble material at the interface was removed by filtration and the combined organic phase was washed with brine (20 ml), dried (Mg SO4) and evaporated. The residue was subjected to vacuum flash chromatography on silica eluting with a gradient of 0-10% ethyl acetate in hexane to give 4-(2-methoxycarbonyl-2-methylpropyl)bromobenzene (7.79 g); 1H NMR (d6 -DMSO): 1.13 (s, 6H); 2.79 (s, 2H), 3.60 (s, 3H), 7.04 (m, 2H), 7.46 (d of t, 2H); mass spectrum (CI+): 272 (M+H)+.

reactant | n-butyl lithium | C(CCC)[Li]
reactant | diisopropylamine | 5.24 ml, 4.05 g | C(C)(C)NC(C)C | C6H15N
reactant | methyl isobutyrate | 4.58 ml, 4.08 g | C(C(C)C)(=O)OC | C5H10O2
reactant | 4-bromobenzyl bromide | 10.0 g | BrC1=CC=C(CBr)C=C1 | C7H6Br2
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | hexane | 32 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 4-(2-methoxycarbonyl-2-methylpropyl)bromobenzene | 7.79 g | COC(=O)C(CC1=CC=C(C=C1)Br)(C)C | C12H15BrO2
